US08710043B2
Step 9. (S)-4-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-hydroxypicolinamide
To a stirred solution of (S)-4-amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl) (3-fluoropyridin-2-yl)methyl)-5-methoxypicolinamide (600 mg, 0.0013 mol) in NMP (10 mL) was added LiCl (168 mg, 0.0039 mol, Aldrich) followed by pTSA (754 mg, 0.0039 mol, Aldrich) at rt. The reaction mixture was stirred at 180° C. for 2 h. After completion of the reaction (monitored by TLC, 50% EtOAc in petroleum ether), the reaction mixture was cooled to room temperature and sat'd NaHCO3 (50 mL) was added and the aqueous solution was extracted with EtOAc (25 mL×2). The combined organic layers were washed with water (25 mL×2), saturated NaCl (25 mL) and dried over anhydrous sodium sulfate. The product thus obtained was purified by silica gel (60-120 mesh) column chromatography eluting with 60-70% EtOAc in petroleum ether to give the title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.90 (s, 1H), 9.51 (d, J=8 Hz, 1H), 8.55 (d, J=4.8 Hz, 1H), 7.82-7.78 (m, 2H), 7.56-7.50 (m, 2H), 7.46 (d, J=1.6 Hz, 10.4 Hz, 1H), 7.30 (d, J=12.8, 2H), 6.48 (d, J=4.4 Hz, 1H), 5.78 (s, 2H). MS (ESI, positive ion) m/z: 441.3 (M+H).

reactant | (S)-4-amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl) (3-fluoropyridin-2-yl)methyl)-5-methoxypicolinamide | 0.0013 mol, 600 mg | NC1=CC(=NC=C1OC)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F | C20H15F5N4O3
reactant | LiCl | 0.0039 mol, 168 mg | [Li+].[Cl-]
reactant | pTSA | 0.0039 mol, 754 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-hydroxypicolinamide | NC1=CC(=NC=C1O)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F | C19H13F5N4O3
